US06423704B1
4-(1-Vinyl-1H-benzoimidazol-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester is the major product obtained from an alternative synthesis of 1-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazol-2-yl)-[1,4]diazepane (Preparation 44.2). Treat a stirred solution of 1-(t-butoxycarbonyl)-4-(1-(2-methanesulfonyloxyethyl)-1H-benzimidazol-2-yl)-[1,4]diazepane (1.21 g, 2.77 mmol, Preparation 9), 2,2,2-trifluoroethanol (2.75 g, 27.4 numol, Aldrich Chemical Company), anhydrous tetrahydrofuran (20 mL) and dimethylformamide (2 mL) at 0-5° C. with sodium hydride (0.44 g, 11 mmol, 60% oil dispersion) under an argon atmosphere. Stir overnight at room temperature, heat at 50° C. for four hours, and stir at room temperature for two hours. Cool to 0° C., quench by addition of saturated ammonium chloride solution (5 mL) and concentrate in vacuo. Dissolve the residue in ethyl acetate (100 mL), wash with water (2×20 mL) and brine (20 mL), dry (Na2SO4) the organic phase, filter and concentrate to afford an oil. Purify the oil by flash chromatography (silica gel, 7×15 cm, ethyl acetate) to afford 0.97 g of 4-(1-vinyl-1H-benzoimidazol-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester as an oil, Rf=0.52 (silica gel, ethyl acetate).

reactant | 1-(t-butoxycarbonyl)-4-(1-(2-methanesulfonyloxyethyl)-1H-benzimidazol-2-yl)-[1,4]diazepane | 2.77 mmol, 1.21 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOS(=O)(=O)C)C=CC=C2 | C20H30N4O5S
reactant | 2,2,2-trifluoroethanol | 2.75 g | FC(CO)(F)F | C2H3F3O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | sodium hydride | 11 mmol, 0.44 g | [H-].[Na+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(1-vinyl-1H-benzoimidazol-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.97 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1C=C)C=CC=C2 | C19H26N4O2
